US05506191
b) Preparation of 2-ethynylnicotinic acid ethyl ester
6.2 g of 2-(2'-trimethylsilylethynyl)-nicotinic acid ethyl ester are dissolved in 50 ml of DMF and 3 g of KF.2H2O are added. After stirring at RT, the reaction mixture is diluted with 300 ml of ether filtered through celite, shaken with 150 ml of water and refiltered. The aqueous phase is extracted four times with 100 ml ether and the combined ether extracts dried over MgSO4, filtered and dried under vacuum. The intermediate can be further purified by chromatography over silica with ethylacetate/hexane.

reactant | 2-(2'-trimethylsilylethynyl)-nicotinic acid ethyl ester | 6.2 g | C(C)OC(C1=C(N=CC=C1)C#C[Si](C)(C)C)=O | C13H17NO2Si
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | KF | 3 g | [F-].[K+]
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2-ethynylnicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)C#C)=O | C10H9NO2
